US05587379
A mixture of 1.4 grams (0.005 mole) of 2,4-diamino-5-[4-(4-hydroxyphenyl)pentyl]-6-methylpyrimidine and 1.0 mL (0.012 mole) of pyridine in about 20 mL of methylene chloride was stirred, and 1.1 grams (0.007 mole) of trifluoromethanesulfonic anhydride was added in one portion. Upon completion of addition, the reaction mixture was stirred at ambient temperature for about 90 minutes. The reaction mixture was then concentrated under reduced pressure to a residue. The residue was washed with three 75 mL portions of an aqueous 10% lithium chloride solution. The organic layer was dried with sodium sulfate, filtered, and concentrated under reduced pressure to a residue. The residue was taken up in 50 mL of toluene and concentrated under reduced pressure to a residue to remove excess pyridine. The residue was again taken up in 50 mL of toluene and concentrated under reduced pressure, yielding about 1.9 grams of 2,4-diamino-5-[4-(4-trifluoromethylsulfonyloxyphenyl)pentyl]-6-methylpyrimidine. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4-diamino-5-[4-(4-hydroxyphenyl)pentyl]-6-methylpyrimidine | 0.005 mole, 1.4 grams | NC1=NC(=C(C(=N1)N)CCCC(C)C1=CC=C(C=C1)O)C | C16H22N4O
reactant | pyridine | 0.012 mole, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.007 mole, 1.1 grams | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | about 20 mL | C(Cl)Cl | CH2Cl2
product | 2,4-diamino-5-[4-(4-trifluoromethylsulfonyloxyphenyl)pentyl]-6-methylpyrimidine | about 1.9 grams | NC1=NC(=C(C(=N1)N)CCCC(C)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C17H21F3N4O3S
